US05922724
2-(Dimethylamino)pyrimidine:
A solution of 2-chloropyrimidine (5 g, 43.65 mmol) in dry THF (50 ml) is saturated with gaseous dimethylamine. The mixture is stirred at ambient temperature for 1 hour followed by evaporation of solvent. The residue is partitioned between water and ethyl acetate. The aqueous phase is extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and evaporated to leave the product as a brownish oil. Yield 5.07 g (94%).

reactant | 2-chloropyrimidine | 43.65 mmol, 5 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(Dimethylamino)pyrimidine | CN(C1=NC=CC=N1)C | C6H9N3
